US07851473B2
(2) 4-(3-Phenyl-1,2,4-thiadiazol-5-yl)-N-1H-1,2,4-triazol-3-ylpiperazine-1-carboxamide
A mixture of 2,2,2-trichloroethyl 1H-1,2,4-triazol-3-ylcarbamate (265 mg, 0.609 mmol), 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine (300 mg, 1.22 mmol) and diisopropylethylamine (0.106 ml, 1.22 mmol) in dimethylsulfoxide (2.5 ml) was stirred at 70° C. for 8 hours. Water was poured into the reaction mixture. A crystal formed was collected by filtration and recrystallized from a mixed solvent of hexane and tetrahydrofuran to obtain the desired product (61.8 mg, 28.5%) as a solid.

reactant | 2,2,2-trichloroethyl 1H-1,2,4-triazol-3-ylcarbamate | 0.609 mmol, 265 mg | N1N=C(N=C1)NC(OCC(Cl)(Cl)Cl)=O | C5H5Cl3N4O2
reactant | 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine | 1.22 mmol, 300 mg | C1(=CC=CC=C1)C1=NSC(=N1)N1CCNCC1 | C12H14N4S
reactant | diisopropylethylamine | 1.22 mmol, 0.106 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | dimethylsulfoxide | 2.5 ml | CS(=O)C | C2H6OS
product | 4-(3-Phenyl-1,2,4-thiadiazol-5-yl)-N-1H-1,2,4-triazol-3-ylpiperazine-1-carboxamide | 61.8 mg, 28.5% | C1(=CC=CC=C1)C1=NSC(=N1)N1CCN(CC1)C(=O)NC1=NNC=N1 | C15H16N8OS
